Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
___ yo woman with PMH cauda equine secondary to cord compression 
from herniation in ___, s/p multiple discectomies and 
laminectomies of ___ and ___, presents for left lower back 
pain. She reports that she's been moving over the past several 
days and has had extended car trips and lifting. She's been 
developing left lower back pain that radiates down her leg on 
___. She went to her PCP when she was in ___, and was 
given methlypred taper, flexaril, and ___. 
She continued to have lower back pain. Today she was getting off 
a bus and had severe, ___ pain in her lower legs and was 
unable to ambulate. She called EMS and was brought to the ED. 
She denies any difficulty controlling bowel or bladder, numbness 
in her groin, IV drug use, fever. Baseline neurologic deficits 
after cauda equine are decreased sensation over left lateral 
aspect of her foot and calf. Decreased plantar reflexes on the 
left. 

In the ED, initial vitals were:  96.9, 80, 126/66, 16, 99% RA 
-Exam notable for:  No saddle anesthesia. No clonus. Downgoing 
toes on plantar reflex. Normal reflexes. Normal sensation.
-Labs notable for:  Urine HCG negative. UA w/trace leuk, many 
bacteria, neg nitrites, epi 1. 
-Imaging notable for:  none
-Patient was given: Ketorolac 30mg IM, Diazepam 10mg PO, 
Acetaminophen 1000mg PO, Dilaudid 2mg PO x2, Morphine 4mg IV x2, 
Diazepam 10mg PO, Morphine 8mg IV
- Decision made to admit for pain control
- Vitals prior to transfer: 97.7, 73, 117/75, 16, 100% RA 
  
On the floor, patient reports that her pain is improved. Now 
___. Pain finally well controlled with morphine IV. She 
continues to have some numbness but no problems with urinary 
retention, bowel incontinence, worsening of her parasthesias. 
Declines rectal exam. Having some nausea from IV narcotics.  
 
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies vomiting, diarrhea, constipation 
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
cord compression from herniation in ___, s/p multiple 
discectomies and laminectomies of ___ and ___
ADHD

 
Social History:
___
Family History:
Father has back problems that have required surgery. No history 
of DM, HTN. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
Vital Signs:  98.3 PO, 120 / 69, 71, 18 98 ra 
General: Sleepy, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, ___, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Rectal: declined 
Back: tenderness throughout lower back on paraspinal muscles and 
along vertebral bodies. 
Extremities: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. 
Neuro: right leg ___ strength, sensation intact, 2+ reflexes. 
Left leg exam limited by pain. ___ strength of plantar flexion. 
___ dorsiflexion. Able to lift left leg up against gravity, but 
painful. 2+ patellar reflex. Unable to obtain Achilles reflex. 
Decreased sensation of left plantar surface and along left 
lateral aspect of shin. Per patient, baseline. 

DISCHARGE PHYSICAL EXAM:
======================
VS: 97.4 | 88 (___) | 138/67 (___) | 18 | 99RA 
General: Alert, oriented, no acute distress  
HEENT: MMM, EOMI
CV: RRR, S1 + S2, ___ systolic murmur
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, ___
GU: No foley  
Rectal: declined  
Back: no tenderness overlying ___, with minimal paraspinal 
tender above L iliac spine
Extremities: Warm, well perfused, no edema
Neuro: right leg ___ strength, sensation intact, 2+ reflexes.
Left leg exam limited by pain. ___ strength of plantar flexion.
___ dorsiflexion. Able to lift left leg up against resistance,
but painful. 2+ patellar reflex. Unable to obtain L Achilles 
reflex. Decreased sensation of left plantar surface and along 
left lateral aspect of shin. Per patient, baseline.  
 
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:40AM BLOOD ___ 
___ Plt ___
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD ___ 
___
___ 07:40AM BLOOD ___

OTHER PERTINENT LABS:
===================
___ 07:50AM BLOOD ___ 
___ Plt ___
___ 07:50AM BLOOD ___ 
___
___ 07:50AM BLOOD ___

IMAGING/STUDIES:
===================
___: MRI L- SPINE
EXAMINATION:  MR ___ AND W/O CONTRAST ___ MR SPINE
 
INDICATION:  ___ year old woman with history of cauda equine 
syndrome status
post L4/L5 and L5/S1 discectomies and question laminectomies at 
L4/L5 and
L5/S1 in ___, now with new onset severe lower back pain and 
questioned
weakness.  Evaluate for spinal cord or nerve root compression.
 
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique,
followed by axial T2 imaging. This was followed by sagittal and 
axial T1
images obtained after the uneventful intravenous administration 
of 7 mL of
Gadavist  contrast agent.
 
COMPARISON:  ___ outside contrast lumbar spine MRI.
 
FINDINGS: 
 
Study is mildly degraded by motion.
 
For the purposes of numbering, the lowest rib bearing vertebral 
body was
designated the T12 level.
 
Vertebral body alignment is preserved. Vertebral body heights 
are preserved. 
Postsurgical changes related to left L4 and L5 level hemi 
laminectomies are
again noted.  There is no marrow signal abnormality. There is no 
evidence of
fracture.
 
Disc desiccation is most prominent from L3 through S1, 
progressed compared to
prior exam.
 
The conus is noted at L1/L2.  Note is made of a lipoma of the 
filum terminale.
The visualized portion of the spinal cord is preserved in signal 
and caliber.
 
L3 - L4:  Disc extrusion measuring approximately 7 mm (AP) is 
noted (see
02:11) with annular fissure, ligamentum flavum hypertrophy and 
facet joint
arthropathy resulting in mild vertebral canal and no neural 
foraminal
stenosis.  Overall, findings have progressed compared to prior 
exam.
 
L4 - L5:  A focal left central disc protrusion and mild disc 
bulge is seen,
resulting in severe canal narrowing and crowding of the nerve 
roots.  There is
moderate to severe left and mild right neural foraminal 
narrowing.  There is
contact with the traversing left L5 nerve roots, and exiting 
bilateral L4
nerve roots.
 
L5 - S1:  Disc bulge and facet joint arthropathy resulting in 
moderate right
and mild left neural foraminal and mild vertebral canal 
stenosis.
 
There is no paravertebral or paraspinal mass identified and 
there is no
evidence of infection or neoplasm. The visualized portion of the 
sacroiliac
joints are preserved.
 
IMPRESSION:
1.  Study is mildly degraded by motion.
2. Postsurgical changes related L4 and L5 hemilaminectomies.
3. Interval progression of ___ left paracentral disc 
protrusion, now
resulting in severe vertebral canal stenosis.
4. Interval progression of ___ spondylosis, now with 7 mm disc 
extrusion, and
mild vertebral canal stenosis.
5. ___ moderate left and mild right neural foraminal and mild 
vertebral
canal stenosis, unchanged.

MICROBIOLOGY:
====================
None

DISCHARGE LABS:
====================
___ 07:58AM BLOOD ___ 
___ Plt ___
___ 07:58AM BLOOD Plt ___
___ 07:58AM BLOOD ___ 
___
___ 07:58AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with PMH cord compression s/p 
laminectomy and microdiscectomy ___, with residual 
deficits, presenting with lower back pain after moving boxes. 
The initial concern was for possible exacerbation of her prior 
injury versus new disc herniation. MRI was obtained on 
___ which showed the following:

1. Study is mildly degraded by motion. 
2. Postsurgical changes related L4 and L5 hemilaminectomies. 
3. Interval progression of ___ left paracentral disc 
protrusion, now 
resulting in severe vertebral canal stenosis. 
4. Interval progression of ___ spondylosis, now with 7 mm disc 
extrusion, and mild vertebral canal stenosis. 
5. ___ moderate left and mild right neural foraminal and mild 
vertebral canal stenosis, unchanged. 

Patient was evaluated by the neurosurgical inpatient team who 
felt that patient should likely have surgery urgently. Patient 
was found to have capacity and declined surgery, preferring to 
transport herself instead to ___ to see her prior 
neurosurgeon. She was discharged with short course of pain 
medications.

PROBLEM LIST:

#Acute L4/L5 Severe Vertebral Canal Stenosis:
Patient w/acute on chronic injury of her lower back. A majority 
of her care has been received in ___ from her surgeon Dr. 
___. Records were obtained from both ___ 
___ and from ___ and films were compared by ___ 
Neurosurgery. The patient was felt to have an acute need for 
neurosurgical intervention, but was deemed to have capacity and 
declined. Instead, despite knowing the risks up to and including 
death and paralysis, she requested on ___ to be 
discharged in order to travel by car to ___ for further 
intervention. She was warned of red flags to watch for including 
new neurologic deficits, increasing pain, or other symptoms that 
are new. She was also advised to follow up urgently with her 
neurosurgeon and to not lift more than 10 pounds. 

#Constipation:
Patient initially constipated which improved with bowel regimen. 


#ADHD:
Stable.

TRANSITIONAL ISSUES:
====================
- ___ with PCP
- ___ with Neurosurgeon within 48 hours of discharge from ___
- Patient provided discs of both ___ and ___ 
imaging
- Do not lift more than 10 pounds
- Please establish primary care in ___ area
- Consider outpatient DEXA scan given multiple courses of high 
dose steroids

FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methylprednisolone 4 mg PO TID 
Tapered dose - DOWN 
2. ___ XR 20 mg PO DAILY 
3. Cyclobenzaprine 10 mg PO TID:PRN back pain 
4. ___ 1 TAB PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*9 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*6 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 400 mg 1 tablet(s) by mouth q8h:prn Disp #*9 
Tablet Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8h:prn Disp #*9 
Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - 
Moderate 
SHORT COURSE ONLY - TAPER AS ABLE. 
RX *oxycodone 5 mg 1 tablet(s) by mouth q3h:prn Disp #*18 Tablet 
Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 packet by 
mouth BID:prn Refills:*0 
7.  ___ XR 20 mg PO DAILY  
8.  Cyclobenzaprine 10 mg PO TID:PRN back pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
___ left paracentral disc protrusion w/associated pain/deficits

Secondary:
ADHD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You came to ___ with severe 
back pain, you had an MRI which was compared to prior imaging 
and found to be slightly worse than previous films. The 
neurosurgery team saw you and recommended surgery on ___ 
but you declined, understanding the risks up to and including 
death. You received a steroid taper and because you remained 
stable, you opted to go down to ___ to receive your 
surgical care. You were provided a short course of pain 
medications along with your imaging CDs from both ___ and 
___. We hope you feel better soon.

Please see the following important transitional issues: 

TRANSITIONAL ISSUES:
====================
- ___ with PCP
- ___ with Neurosurgeon within 48 hours of discharge from ___
- We provided you discs of both ___ and ___ 
imaging
- Do not lift more than 10 pounds
- Please establish primary care in ___ area
- Consider outpatient DEXA scan given multiple courses of high 
dose steroids

___ MRI READ: ___
EXAMINATION:  MR ___ AND W/O CONTRAST ___ MR SPINE 
  
INDICATION:  ___ year old woman with history of cauda equine 
syndrome status post L4/L5 and L5/S1 discectomies and question 
laminectomies at L4/L5 and L5/S1 in ___, now with new onset 
severe lower back pain and questioned weakness.  Evaluate for 
spinal cord or nerve root compression. 
  
TECHNIQUE:  Sagittal imaging was performed with T2, T1, and STIR 
technique, followed by axial T2 imaging. This was followed by 
sagittal and axial T1 images obtained after the uneventful 
intravenous administration of 7 mL of Gadavist  contrast agent. 
  
COMPARISON:  ___ outside contrast lumbar spine MRI. 
  
FINDINGS:  
  
Study is mildly degraded by motion. 
  
For the purposes of numbering, the lowest rib bearing vertebral 
body was designated the T12 level. 
  
Vertebral body alignment is preserved. Vertebral body heights 
are preserved.  Postsurgical changes related to left L4 and L5 
level hemi laminectomies are again noted.  There is no marrow 
signal abnormality. There is no evidence of fracture. 
  
Disc desiccation is most prominent from L3 through S1, 
progressed compared to prior exam. 
  
The conus is noted at L1/L2.  Note is made of a lipoma of the 
filum terminale. The visualized portion of the spinal cord is 
preserved in signal and caliber. 
  
L3 - L4:  Disc extrusion measuring approximately 7 mm (AP) is 
noted (see 
02:11) with annular fissure, ligamentum flavum hypertrophy and 
facet joint arthropathy resulting in mild vertebral canal and no 
neural foraminal stenosis.  Overall, findings have progressed 
compared to prior exam. 
  
L4 - L5:  A focal left central disc protrusion and mild disc 
bulge is seen, resulting in severe canal narrowing and crowding 
of the nerve roots.  There is moderate to severe left and mild 
right neural foraminal narrowing.  There is contact with the 
traversing left L5 nerve roots, and exiting bilateral L4 nerve 
roots. 
  
L5 - S1:  Disc bulge and facet joint arthropathy resulting in 
moderate right and mild left neural foraminal and mild vertebral 
canal stenosis. 
  
There is no paravertebral or paraspinal mass identified and 
there is no evidence of infection or neoplasm. The visualized 
portion of the sacroiliac joints are preserved. 
  
IMPRESSION: 
1. Study is mildly degraded by motion. 
2. Postsurgical changes related L4 and L5 hemilaminectomies. 
3. Interval progression of ___ left paracentral disc 
protrusion, now 
resulting in severe vertebral canal stenosis. 
4. Interval progression of ___ spondylosis, now with 7 mm disc 
extrusion, and mild vertebral canal stenosis. 
5. ___ moderate left and mild right neural foraminal and mild 
vertebral canal stenosis, unchanged. 

Your ___ Team
 
Followup Instructions:
___